US05994368
To a suspension of 8-(2,6-dichloro-3-nitrobenzyloxy)-4-methoxy-2-methylquinoline (1.75 g) in methanol (17 ml) was added tin (II) chloride (3.37 g) at ambient temperature. The mixture was refluxed for 1 hour. After cooling, the mixture was adjusted to pH 10 with 1 N sodium hydroxide solution. To this mixture was added dichloromethane (50 ml) and the precipitate was removed by filtration. The filtrate was extracted with dichloromethane twice. The organic layer was washed with water and brine. After dried over magnesium sulfate, the solvent was removed in vacuo to give 8-(3-amino-2,6-dichlorobenzyloxy)-4-methoxy-2-methylquinoline (1.16 g) as a colorless powder.

reactant | 8-(2,6-dichloro-3-nitrobenzyloxy)-4-methoxy-2-methylquinoline | 1.75 g | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)OC)C(=CC=C1[N+](=O)[O-])Cl | C18H14Cl2N2O4
reactant | tin (II) chloride | 3.37 g | [Sn](Cl)Cl
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | 17 ml | CO | CH4O
product | 8-(3-amino-2,6-dichlorobenzyloxy)-4-methoxy-2-methylquinoline | 1.16 g | NC=1C(=C(COC=2C=CC=C3C(=CC(=NC23)C)OC)C(=CC1)Cl)Cl | C18H16Cl2N2O2
